US06110638
Part A: Preparation of 3.4dihydro-1-methylnaphthalene
α-Tetralone was reacted with methylmagnesium iodide as described in J. Org. Chem., 26, 4165 (1961), without isolation of the intermediate 1-methyl-1-tetralol, to give the desired product, after distillation, in 68% yield as a colorless oil, boiling point 55-57° C. at 0.8 mm Hg.

reactant | α-Tetralone | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | methylmagnesium iodide | C[Mg]I
product | 3.4dihydro-1-methylnaphthalene | 68% yield | CC1=CCCC2=CC=CC=C12 | C11H12
